US04816470
(a) 4-Amino-N-phenylbenzenemethanesulphonamide
A solution of 4-Nitro-N-phenylbenzenemethanesulphonamide (11.0 g), in ethyl acetate (400 ml) was hydrogenated at room temperature and pressure over pre-reduced 10% palladium oxide on charcoal (1.0 g, 50% paste with water) for 4 h until hydrogen uptake ceased (2.7 l). Methanol (400 ml) was added, the catalyst filtered off, and the filtrate evaporated in vacuo to give the title compound as a white solid (8.98 g), m.p. 180°-182°.

reactant | 4-Nitro-N-phenylbenzenemethanesulphonamide | 11.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CS(=O)(=O)NC1=CC=CC=C1 | C13H12N2O4S
reactant | hydrogen | [H][H] | H2
reactant | Methanol | 400 ml | CO | CH4O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium oxide | [Pd]=O
product | 4-Amino-N-phenylbenzenemethanesulphonamide | 8.98 g | NC1=CC=C(C=C1)CS(=O)(=O)NC1=CC=CC=C1 | C13H14N2O2S
